US08748434B2
N-[5-(4-Fluoro-2-methoxy-phenyl)-pyridazin-4-yl]-3-methanesulfonyl-N-methyl-5-trifluoromethyl-benzamide
To a solution of 5-(4-fluoro-2-methoxyphenyl)-N-methylpyridazin-4-amine (27 mg, 116 μmol) in dichloromethane (1 mL) were added 3-(methylsulfonyl)-5-(trifluoromethyl)benzoyl chloride (66.4 mg, 232 mmol) and N,N-diisopropylethylamine (60 mg, 80.9 μL, 463 μmol). The clear, light brown solution was stirred at room temperature for 1.75 h and then poured on saturated aqueous ammonium chloride solution and dichloromethane and the layers were separated. The aqueous layer was extracted three times with dichloromethane. The organic layers were dried over magnesium sulfate, filtered, treated with silica gel and evaporated. The compound was purified by silica gel chromatography on a 10 g column using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of n-heptane:ethyl acetate (100:0 to 0:100) to give the desired compound as a light brown solid (15 mg; 25%). MS (ESI+): m/z=483.09 ([M+H]+).

reactant | 5-(4-fluoro-2-methoxyphenyl)-N-methylpyridazin-4-amine | 116 μmol, 27 mg | FC1=CC(=C(C=C1)C=1C(=CN=NC1)NC)OC | C12H12FN3O
reactant | 3-(methylsulfonyl)-5-(trifluoromethyl)benzoyl chloride | 232 mmol, 66.4 mg | CS(=O)(=O)C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F | C9H6ClF3O3S
reactant | N,N-diisopropylethylamine | 463 μmol, 80.9 μL, 60 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-[5-(4-Fluoro-2-methoxy-phenyl)-pyridazin-4-yl]-3-methanesulfonyl-N-methyl-5-trifluoromethyl-benzamide | 15 mg, 25% | FC1=CC(=C(C=C1)C=1C(=CN=NC1)N(C(C1=CC(=CC(=C1)C(F)(F)F)S(=O)(=O)C)=O)C)OC | C21H17F4N3O4S
